US08048901B2
2-(2-Methoxyethoxy)-4-methyl-5-nitropyridine
60 percent strength sodium hydride suspension was introduced into 10 ml of ethylene glycol monomethyl ether, and the mixture was stirred until the evolution of hydrogen had ceased. 516 mg of 2-chloro-4-methyl-5-nitropyridine are added, and the mixture is stirred at room temperature until the reaction has gone to completion. 20 ml of water are added, and the mixture is extracted with methyl tert-butyl ether. The organic phase is dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is purified by flash chromatography on silica gel (n-heptane/ethyl acetate=1:3). This gives 2-(2-methoxyethoxy)-4-methyl-5-nitropyridine as a colorless oil. C9H12N2O4 (212.21), MS (ESI): 213 (M+H+).

reactant | sodium hydride | [H-].[Na+]
reactant | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-4-methyl-5-nitropyridine | 516 mg | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
solvent | water | 20 ml | O | H2O
product | 2-(2-Methoxyethoxy)-4-methyl-5-nitropyridine | COCCOC1=NC=C(C(=C1)C)[N+](=O)[O-] | C9H12N2O4
